US07820662B2
3-[8-Chloro-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-1-hydroxymethyl-cyclobutanol
7-[8-Chloro-3-(3-methylenecyclobutyl)imidazo[1,5-a]pyrazin-1-yl]-2-phenylquinoline (0.26 mmol, 110 mg) was dissolved in 8 mL solution (THF:H2O=3:1) and charged with NMO (0.52 mmol, 0.18 mL, 50% aq. solution) and K2OsO4.H2O (0.26 mmol, 9.6 mg). The resulting mixture was stirred at rt overnight. The reaction was quenched with Na2SO3 (1.30 mmol, 164 mg), diluted with EtOAc (40 mL), washed with brine (30 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure to give the desired product as a yellow solid; MS (ES+): m/z 457/396 (10/1) [MH+].

reactant | 7-[8-Chloro-3-(3-methylenecyclobutyl)imidazo[1,5-a]pyrazin-1-yl]-2-phenylquinoline | 0.26 mmol, 110 mg | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)=C | C26H19ClN4
reactant | NMO | 0.52 mmol, 0.18 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Na2SO3 | 1.30 mmol, 164 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 3-[8-Chloro-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-1-hydroxymethyl-cyclobutanol | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)(O)CO | C26H21ClN4O2
